US06589970B2
Step 3: 2-Butyl-benzofuran-3-carboxylic acid [5-(4-tert-butyl-phenyl)-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-amide.
A mixture of 2-butyl-benzofuran-3-carboxylic acid [5-(4-tert-butyl-phenyl)-6-cyanomethoxy-naphthalen-2-ylmethyl]-amide (207 mg, 0.38 mmol), prepared in the previous step, sodium azide (72.9 mg, 1.12 mmol) and ammonium chloride (58,7 mg, 1.10 mmol) in 10 mL of DMF was stirred under nitrogen at 100° C. for 6 h. If starting material remains additional quantities of sodium azide and ammonium chloride are added until the reaction is complete by TLC. The reaction was diluted with water, made basic by the addition of 1 N NaOH and extracted multiple times with ethyl acetate. The combined organic extracts were acidified by the addition of 1 N HCl and then concentrated under reduced pressure. The residue was diluted with water and the solid that formed was collected by filtration and dried under reduced pressure to give the title compound (186 mg, 84%) as a white solid, mp75-78° C.

reactant | 2-butyl-benzofuran-3-carboxylic acid [5-(4-tert-butyl-phenyl)-6-cyanomethoxy-naphthalen-2-ylmethyl]-amide | 0.38 mmol, 207 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C2C=CC(=CC2=CC=C1OCC#N)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC | C36H36N2O3
reactant | sodium azide | 1.12 mmol, 72.9 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.10 mmol, 58,7 mg | [Cl-].[NH4+]
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Butyl-benzofuran-3-carboxylic acid [5-(4-tert-butyl-phenyl)-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-ylmethyl]-amide | 186 mg, 84% | C(C)(C)(C)C1=CC=C(C=C1)C1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)CNC(=O)C1=C(OC2=C1C=CC=C2)CCCC | C36H37N5O3
